US06159974
Preparation of 5-benzylamino-6-(2,4-dichlorophenyl)-3-(2-pyridyl)-1,2,4-triazine
A mixture of 6-(2,4-dichlorophenyl)-3-(2-pyridyl)-1,2,4-triazin-5-one (5.00 g, 15.7 mmol) and thionyl chloride (50 ml) was heated under reflux for two hours. The mixture was allowed to cool to room temperature, and the solvent was removed by distillation under reduced pressure. To the residue were added tetrahydrofuran (50 ml), benzylamine (4.20 g, 39.2 mmol, 2.5 eq.), and the mixture was heated under reflux for two hours. The mixture was allowed to cool to room temperature, and water (150 ml) was added to the reaction mixture. The mixture was extracted with methylene chloride (600 ml), and washed with a 5% aqueous potassium hydrogen carbonate solution (150 ml), and further washed with a 5% brine (150 ml). The organic layer was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting solid was purified by flash silica gel column chromatography (methylene chloride) to give the title compound as pale yellow crystals (3.64 g, 57%).

reactant | 6-(2,4-dichlorophenyl)-3-(2-pyridyl)-1,2,4-triazin-5-one | 15.7 mmol, 5.00 g | ClC1=C(C=CC(=C1)Cl)C=1C(NC(=NN1)C1=NC=CC=C1)=O | C14H8Cl2N4O
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | benzylamine | 39.2 mmol, 4.20 g, 2.5 eq. | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 150 ml | O | H2O
product | 5-benzylamino-6-(2,4-dichlorophenyl)-3-(2-pyridyl)-1,2,4-triazine | 3.64 g, 57% | C(C1=CC=CC=C1)NC=1N=C(N=NC1C1=C(C=C(C=C1)Cl)Cl)C1=NC=CC=C1 | C21H15Cl2N5
